US08039463B2
HCl (10 mL) was added to 4-[2-(biphenyl-4-ylcarbamoyl)-acetyl]-piperazine-1-carboxylic acid tert-butyl ester (1.3 g, 3.1 mmol) and the resulting mixture was stirred for 30 minutes, then concentrated. The residue was washed with diethyl ether and dried to afford 1.0 g (90%) of N-Biphenyl-4-yl-3-oxo-3-piperazin-1-yl-propionamide hydrochloride

reactant | 4-[2-(biphenyl-4-ylcarbamoyl)-acetyl]-piperazine-1-carboxylic acid tert-butyl ester | 3.1 mmol, 1.3 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CC(NC1=CC=C(C=C1)C1=CC=CC=C1)=O)=O | C24H29N3O4
reactant | HCl | 10 mL | Cl | ClH
product | N-Biphenyl-4-yl-3-oxo-3-piperazin-1-yl-propionamide hydrochloride | 1.0 g, 90% | Cl.C1(=CC=C(C=C1)NC(CC(N1CCNCC1)=O)=O)C1=CC=CC=C1 | InChI=1S/C19H21N3O2.ClH/c23-18(14-19(24)22-12-10-20-11-13-22)21-17-8-6-16(7-9-17)15-4-2-1-3-5-15;/h1-9,20H,10-14H2,(H,21,23);1H
